US06864265B2
N-(2-pyridinylmethyl)-N′-(4-methoxy-5,6,7,8-tetrahydro-8-quinolinyl)-1,4-benzenedimethanamine
N-(2-pyridinylmethyl)-N-(2-nitrobenzenesulfonyl)-N′-(4-methoxy-5,6,7,8-tetrahydro-8-quinolinyl)-1,4-benzenedimethanamine (0.269 g, 0.50 mmol) was treated with thiophenol (0.35 mL, 3.41 mmol) and K2CO3 (0.757 g, 5.48 mmol) in CH3CN (10 mL). Purification of the crude material by radial chromatography on silica gel (2 mm plate, 20:1:1 CH2Cl2-CH3OH NH4OH) provided 0.158 g (82%) of the title compound as a yellow oil. 1H NMR (CDCl3) □1.61-1.80 (m, 2H), 1.98-2.17 (m, 2H), 2.56-2.70 (m, 2H), 3.79-3.83 (m, 6H), 3.88-3.98 (m, 4H), 6.60 (d, 1H, J=5.7 Hz), 7.15 (dd, 1H, J=5.1, 6.9 Hz), 7.23-7.41 (m, 5H) 7.63 (ddd, 1H, J=7.8, 7.8, 1.8 Hz), 8.30 (d, 1H, J=5.7 Hz); 8.55 (d, 1H, J=3.9 Hz);

reactant | N-(2-pyridinylmethyl)-N-(2-nitrobenzenesulfonyl)-N′-(4-methoxy-5,6,7,8-tetrahydro-8-quinolinyl)-1,4-benzenedimethanamine | 0.50 mmol, 0.269 g | N1=C(C=CC=C1)CN(CC1=CC=C(C=C1)CNC1CCCC=2C(=CC=NC12)OC)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C30H31N5O5S
reactant | thiophenol | 3.41 mmol, 0.35 mL | C1(=CC=CC=C1)S | C6H6S
reactant | K2CO3 | 5.48 mmol, 0.757 g | C(=O)([O-])[O-].[K+].[K+]
solvent | CH3CN | 10 mL | CC#N | C2H3N
product | N-(2-pyridinylmethyl)-N′-(4-methoxy-5,6,7,8-tetrahydro-8-quinolinyl)-1,4-benzenedimethanamine | 0.158 g, 82% | N1=C(C=CC=C1)CNCC1=CC=C(C=C1)CNC1CCCC=2C(=CC=NC12)OC | C24H28N4O
